### PR TITLE
[Merged by Bors] - feat(Topology/SubsetProperties): add Inducing.isCompact_preimage

### PR DESCRIPTION
**Pull request by grunweg**
Simple generalisation of `ClosedEmbedding.isCompact_preimage`; its injectivity hypothesis was never used.

---------------

I'm not sure if this result has any use in practice (the application I had in mind might not need it),
but as it's only removing a superfluous hypothesis, I guess this is fine anyway?

~~Based on #7289 for simplicity.~~ That one has landed, rebased.

### CODE REVIEW

File: Mathlib/Topology/SubsetProperties.lean [hunk 1]
```diff
@@ -885,11 +885,16 @@ theorem Embedding.isCompact_iff_isCompact_image {f : α → β} (hf : Embedding
...
+  rwa [← hf.isCompact_iff, image_preimage_eq_inter_range]
+
 /-- The preimage of a compact set under a closed embedding is a compact set. -/
-theorem ClosedEmbedding.isCompact_preimage {f : α → β} (hf : ClosedEmbedding f) {K : Set β}
-    (hK : IsCompact K) : IsCompact (f ⁻¹' K) := by
-  replace hK := hK.inter_right hf.closed_range
-  rwa [← hf.toInducing.isCompact_iff, image_preimage_eq_inter_range]
+theorem ClosedEmbedding.isCompact_preimage {f : α → β} (hf : ClosedEmbedding f)
+    {K : Set β} (hK : IsCompact K) : IsCompact (f ⁻¹' K) :=
+  Inducing.isCompact_preimage hf.toInducing (hf.closed_range) hK
```
Comment (jcommelin) [inline Mathlib/Topology/SubsetProperties.lean:897]: If you want, you can golf this to
```suggestion
  hf.toInducing.isCompact_preimage (hf.closed_range) hK
```

**Comment by sgouezel** [comment]
bors d+

**Comment by grunweg** [comment]
Thanks for the review.
bors r+
